US05849796
8.3 g of 2-methyl-4-chloro-5-methylsulphonylbenzoic acid are mixed together with 70 ml of N-methylpyrrolidone and 7.4 g of CuCN, and the whole is stirred at 150° for 3 days. The reaction mixture is then poured into 250 ml of water and working-up takes place in the customary manner. After recrystallization from methanol, 2-methyl-4-cyano-5-methylsulphonylbenzoic acid is obtained, m.p. 248°-249°.

reactant | 2-methyl-4-chloro-5-methylsulphonylbenzoic acid | 8.3 g | CC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C9H9ClO4S
reactant | N-methylpyrrolidone | 70 ml | CN1C(CCC1)=O | C5H9NO
reactant | CuCN | 7.4 g | C(#N)[Cu]
solvent | water | 250 ml | O | H2O
product | 2-methyl-4-cyano-5-methylsulphonylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)C#N)S(=O)(=O)C | C10H9NO4S
